US07915424B2
2-Bromo-1-fluoro-4-iodobenzene
Add at 0° C. a solution of sodium nitrite (2.0 g, 28.9 mmol) in water (15 mL) to a suspension of 3-bromo-4-fluorophenylamine (5.0 g, 26.3 mmol) in a 6 N aqueous solution of hydrochloric acid (25 mL) at 0° C. slowly over 10 min. Stir the mixture at 0° C. for 5 min. Add this solution to a solution of potassium iodide (4.37 g, 26.3 mmol) in water (125 mL) via syringe at 0° C. under nitrogen over 15 min. Stir at 0° C. for 30 min. Warm to room temperature. Extract with four times with dichloromethane (100 mL), dry (sodium sulfate), filter, and concentrate. Purify by silica gel chromatography, eluting with 100:0 to 95:5 hexanes:ethyl acetate to give the title compound as a colorless oil (5.83 g, 74%).

reactant | sodium nitrite | 28.9 mmol, 2.0 g | N(=O)[O-].[Na+]
reactant | 3-bromo-4-fluorophenylamine | 26.3 mmol, 5.0 g | BrC=1C=C(C=CC1F)N | C6H5BrFN
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | potassium iodide | 26.3 mmol, 4.37 g | [I-].[K+]
solvent | water | 15 mL | O | H2O
solvent | water | 125 mL | O | H2O
product | 2-Bromo-1-fluoro-4-iodobenzene | 5.83 g, 74% | BrC1=C(C=CC(=C1)I)F | C6H3BrFI
